US07132419B2
4-(2-Hydroxy-ethoxy)-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide
To a solution of 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide (125 mg) in tetrahydrofuran (5 mL) was added a 1.0M solution of tetrabutyl ammonium fluoride (1.2 mL). After stirring for 1.5 hours the reaction mixture was diluted with ethyl acetate, washed with water, dried (MgSO4) and the solvent removed in vacuo to yield crude product which was purified using flash chromatography to yield the title compound as an orange solid (24 mg).

reactant | 4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 125 mg | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OCCO[Si](C)(C)C(C)(C)C)C | C29H38N4O3Si
reactant | tetrabutyl ammonium fluoride | 1.2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-Hydroxy-ethoxy)-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 24 mg | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OCCO)C | C23H24N4O3
